### PR TITLE
Add Erdos 299

### LINKED ISSUE #50: Formalise Erdos Problem 299

### PR DESCRIPTION
**Pull request by callesonne**
This closes #50.

### CODE REVIEW

File: FormalConjectures/ErdosProblems/298.lean [hunk 1]
```diff
@@ -33,3 +34,11 @@ https://github.com/b-mehta/unit-fractions -/
 theorem erdos_298 : (∀ (A : Set ℕ), 0 ∉ A → A.HasPosDensity →
     ∃ (S : Finset ℕ), S.toSet ⊆ A ∧ ∑ n ∈ S, (1 / n : ℚ) = 1) ↔ answer(True) := by
   sorry
+
+/--
+In [Bl21] it is proved under the weaker assumption that `A` onlu has positive upper density.
+-/
+@[category research solved, AMS 11]
+theorem erdos_298.variants.upper_density : (∀ (A : Set ℕ), 0 < A.UpperDensity →
```
Comment (Paul-Lez) [inline FormalConjectures/ErdosProblems/298.lean]: Small nitpick to stay closer to the informal maths
```suggestion
theorem erdos_298.variants.upper_density : (∀ (A : Set ℕ), 0 ∉ A → 0 < A.UpperDensity →
```

File: FormalConjectures/ErdosProblems/299.lean [hunk 2]
```diff
@@ -0,0 +1,51 @@
...
+open Filter
+
+/--
+Is there an infinite sequence $a_1 < a_2 < \dots$ such that $a_{i+1} - a_i = O(1)$ and no finite
+sum of $\frac{1}{a_i}$ is equal to 1?
+-/
+@[category research solved, AMS 11, AMS 40]
+theorem erdos_299 : (∃ (a : ℕ → ℕ),
+    StrictMono a ∧ (∀ n, 0 < a n) ∧
+    (fun n ↦ (a (n + 1) : ℝ) - a n) =O[atTop] (fun n ↦ (1 : ℝ)) ∧
```
Comment (Paul-Lez) [inline FormalConjectures/ErdosProblems/299.lean]: Does this work?
```suggestion
    (fun n ↦ (a (n + 1) : ℝ) - a n) =O[atTop] 1 ∧
```

File: FormalConjectures/ErdosProblems/299.lean [hunk 3]
```diff
@@ -0,0 +1,51 @@
...
+    ∀ (S : Finset ℕ), ∑ i ∈ S, (1 : ℝ) / (a i) ≠ 1) ↔ answer(False) := by
```
Comment (Paul-Lez) [inline FormalConjectures/ErdosProblems/299.lean]: I think we don't need brackets here
```suggestion
    ∀ (S : Finset ℕ), ∑ i ∈ S, (1 : ℝ) / a i ≠ 1) ↔ answer(False) := by
```

File: FormalConjectures/ErdosProblems/299.lean [hunk 4]
```diff
@@ -0,0 +1,51 @@
...
+with sets of positive density, as follows from [Bl21].
+
+The statement is as follows:
+If $A \subset \mathbb{N}$ has positive upper density (and hence certainly if $A$ has positive
+density) then there is a finite $S \subset A$ such that $\sum_{n \in S} \frac{1}{n} = 1$.
+
+[Bl21] Bloom, T. F., On a density conjecture about unit fractions.
+-/
+@[category research solved, AMS 11, AMS 40]
+theorem erdos_299.variants.density : ∀ (A : Set ℕ), 0 < A.UpperDensity →
```
Comment (Paul-Lez) [inline FormalConjectures/ErdosProblems/299.lean]:
```suggestion
theorem erdos_299.variants.density : ∀ (A : Set ℕ), 0 ∉ A → 0 < A.UpperDensity →
```

File: FormalConjectures/ErdosProblems/299.lean (hunk 2 above)
Comment (b-mehta) [reply FormalConjectures/ErdosProblems/299.lean]: Something like this should work, but I expect you'll need some explicit type ascription too

File: FormalConjectures/ErdosProblems/298.lean (hunk 1 above)
Comment (callesonne) [reply FormalConjectures/ErdosProblems/298.lean]: Good point!

File: FormalConjectures/ErdosProblems/299.lean (hunk 2 above)
Comment (callesonne) [reply FormalConjectures/ErdosProblems/299.lean]: Yes if I provide a type ascription, thanks!

**Comment by callesonne** [comment]
Thanks!

**Review by mo271 — APPROVED** [review]
